US05319027
Two additional styrene/acrylic acid copolymers were prepared by solution polymerization (in tert-butanol at 30% monomer concentration). Benzoyl peroxide (2.0 mmoles/mole monomers) was added to the reaction mixture which was then purged with nitrogen for 10-15 min and heated to 80° C. for 16-20 hours. In the early stages of the reaction, an ice bath was used to moderate the exotherm. The resulting polymer was isolated by precipitating in water and drying in a vacuum over (60° C./1 torr). After drying, monomer conversion to polymer was measured, and the inherent viscosity (25° C. using a 0.2 wt % solution in tetrahydrofuran), and the composition (using 13C NMR of the polymer products) were determined. The characteristics of these polymers is noted in Table 5.

reactant | Benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
product | styrene acrylic acid | C=CC1=CC=CC=C1.C(C=C)(=O)O | InChI=1S/C8H8.C3H4O2/c1-2-8-6-4-3-5-7-8;1-2-3(4)5/h2-7H,1H2;2H,1H2,(H,4,5)
